US05442111
1-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-2-propanone
Chloroacetone (2.0 mL, 25.2 mM) is added to a 0° C. of 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol (3.0 g, 12.6 mM) and pyridine (2.0 mL, 25.2 mM) in methylene chloride (100 mL). The reaction mixture is allowed to warm to room temperature then cooled again to 0° C., and an additional amount of chloroacetone (2.0 mL, 25.2 mM) and pyridine (2.0 mL, 25.2 mM) is added along with K2CO3 (100 mg). The reaction mixture is again allowed to warm to room temperature. The mixture is diluted with ethyl acetate and washed once with dilute aqueous hydrochloric acid, four times with water, and once with brine. The organic phase is dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue is crystallized from ethyl acetate:hexane to give 2.8 g (75.5%) of white crystals, mp 105°-106° C.

reactant | Chloroacetone | 25.2 mM, 2.0 mL | ClCC(C)=O | C3H5ClO
reactant | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | 12.6 mM, 3.0 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | pyridine | 25.2 mM, 2.0 mL | N1=CC=CC=C1 | C5H5N
reactant | chloroacetone | 25.2 mM, 2.0 mL | ClCC(C)=O | C3H5ClO
reactant | pyridine | 25.2 mM, 2.0 mL | N1=CC=CC=C1 | C5H5N
reactant | K2CO3 | 100 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-2-propanone | 2.8 g, 75.5% | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCC(C)=O | C17H26O2S
